US07745438B2
(R)-4-[(1R,2S)-3-(3-benzyloxy-5-fluorophenyl)-1-benzyloxy-2-dibenzylaminopropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
Add NaH (12.5 g, 60% mineral oil suspension, 312.5 mmol) in portions to a solution of benzyl alcohol (32 mL, 309.2 mmol) in N-methylpyrrolidinone (1 L). Stir the reaction mixture at r.t. until no gas evolution is detected. Add (R)-4-[(1R,2S)-3-(3,5-difluorophenyl)-1-benzyloxy-2-dibenzylaminopropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester (130 g) to the mixture and warm it up to 90° C. After 45 min, allow to cool to room temperature and add saturated aqueous ammonium chloride. Dilute with ethyl acetate (2 L) and wash with saturated aqueous sodium chloride (2×1.5 L). Dry the organic layer on MgSO4, filter and concentrate. Subject residue to silical gel chromatography, eluting with 2-4% ethyl acetate in hexanes, to provide 139.45 g (94%) of the desired compound as a white solid.

reactant | NaH | 312.5 mmol, 12.5 g | [H-].[Na+]
reactant | benzyl alcohol | 309.2 mmol, 32 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | (R)-4-[(1R,2S)-3-(3,5-difluorophenyl)-1-benzyloxy-2-dibenzylaminopropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 130 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)(C)C | C40H46F2N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N-methylpyrrolidinone | 1 L | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
product | (R)-4-[(1R,2S)-3-(3-benzyloxy-5-fluorophenyl)-1-benzyloxy-2-dibenzylaminopropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 139.45 g, 94% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@@H]([C@H](CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)(C)C | C47H53FN2O5
